US04279815
Diphenylamine--0.026%
The reactor effluent, provided an aniline solution that could be used as the starting material for converting p-aminoazobenzene to p-phenylenediamine, or a solution from which the aminoazobenzene could be recovered.

reactant | p-aminoazobenzene | NC1=CC=C(C=C1)N=NC1=CC=CC=C1 | C12H11N3
reactant | p-phenylenediamine | C1=CC(=CC=C1N)N | C6H8N2
product | Diphenylamine | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
